US06194449B1
2-Amino-3-(4-chloro-benzoyl)-6-(ethoxycarbonylmethyl)4,5,6,7-tetrahydrothieno[2,3-c]pyridine: Compound 18
The same procedure in Example 17 was used except an equivalent amount of 2-amino-3-(4-chloro-benzoyl) 4,5,6,7-tetrahydrothieno[2,3-c]pyridine was used in place of 2-amino-3-benzoyl4,5,6,7-tetrahydrothieno[2,3-c]pyridine (2 mmol), and an equivalent amount of ethoxycarbonylmethyl iodide was used in place of methyl iodide (3 mmol).

reactant | 2-amino-3-(4-chloro-benzoyl) 4,5,6,7-tetrahydrothieno[2,3-c]pyridine | NC1=C(C2=C(CNCC2)S1)C(C1=CC=C(C=C1)Cl)=O | C14H13ClN2OS
reactant | ethoxycarbonylmethyl iodide | C(C)OC(=O)CI | C4H7IO2
product | 2-Amino-3-(4-chloro-benzoyl)-6-(ethoxycarbonylmethyl)4,5,6,7-tetrahydrothieno[2,3-c]pyridine | NC1=C(C2=C(CN(CC2)CC(=O)OCC)S1)C(C1=CC=C(C=C1)Cl)=O | C18H19ClN2O3S
